US07465731B2
To a solution of (2E)-3-(5-{[(3R)-1-cyclohexyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (274 mg) in methanol (6.6 mL) was added hydrogen chloride in methanol (0.659 mL). After stirring at room temperature for 1 hour, the reaction mixture was evaporated in vacuo and triturated with ethyl acetate to give (2E)-3-(5-{[(3R)-1-cyclohexyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride (252 mg).

reactant | (2E)-3-(5-{[(3R)-1-cyclohexyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 274 mg | C1(CCCCC1)N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C22H33N5O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 6.6 mL | CO | CH4O
solvent | methanol | 0.659 mL | CO | CH4O
product | (2E)-3-(5-{[(3R)-1-cyclohexyl-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride | 252 mg | Cl.Cl.C1(CCCCC1)N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO | InChI=1S/C17H25N5O2.2ClH/c23-17(21-24)7-6-13-10-19-16(11-18-13)20-14-8-9-22(12-14)15-4-2-1-3-5-15;;/h6-7,10-11,14-15,24H,1-5,8-9,12H2,(H,19,20)(H,21,23);2*1H/b7-6+;;/t14-;;/m1../s1
